US07951826B2
(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-[4-(4,4,4-trifluoro-butoxy)-phenyl]-methanone
The title compound is prepared in a manner substantially analogous to Procedure E except the reaction mixture is stirred at room temperature overnight starting from (4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 1-bromo-4,4,4-trifluorobutane. MS (ES+) 385.2.

reactant | (4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | OC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H22N2O2
reactant | 1-bromo-4,4,4-trifluorobutane | BrCCCC(F)(F)F | C4H6BrF3
product | (2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-[4-(4,4,4-trifluoro-butoxy)-phenyl]-methanone | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)OCCCC(F)(F)F | C20H27F3N2O2
